US06825353B2
3-(R)-[1-tert-Butoxycarbonylamino-1-phenylmethyl]-1-[1-(R)-phenylethyl]pyrrolidine [F1]
In an atmosphere of nitrogen and under ice-cooling, 1 M borane-tetrahydrofuran complex (4.6 ml) was added dropwise to tetrahydrofuran solution (10 ml) of 4-(R)-[1-tert-butoxycarbonylamino-1-phenylmethyl]-1-[1-(R)-phenylethyl]-2-pyrrolidone [α](600 mg, 1.52 mmol), and the mixture was stirred at room temperature for 13 hours. After evaporation of the solvent under a reduced pressure, the residue was mixed with 80% aqueous ethanol (15 ml) and triethylamine (3 ml), and heated under reflux for 5 hours. After spontaneous cooling, the solvent was evaporated under a reduced pressure and chloroform (30 ml) was added to the residue. This was washed with water (10 ml) and saturated brine (10 ml), and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure and the residue was subjected to a silica gel column chromatography. By eluting with chloroform:methanol (20:1), 510 mg (88%) of the title compound was obtained as colorless crystals.

reactant | 4-(R)-[1-tert-butoxycarbonylamino-1-phenylmethyl]-1-[1-(R)-phenylethyl]-2-pyrrolidone | 1.52 mmol, 600 mg | C(C)(C)(C)OC(=O)NC(C1=CC=CC=C1)[C@@H]1CC(N(C1)[C@H](C)C1=CC=CC=C1)=O | C24H30N2O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(R)-[1-tert-Butoxycarbonylamino-1-phenylmethyl]-1-[1-(R)-phenylethyl]pyrrolidine | 510 mg, 88% | C(C)(C)(C)OC(=O)NC(C1=CC=CC=C1)[C@H]1CN(CC1)[C@H](C)C1=CC=CC=C1 | C24H32N2O2
